US04486586
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(1-carboxycyclobut-1-oxyimino)acetamido]-3-[(E)-3-(2-amino-5-thiazolo[4,5-c]pyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate (I-5C)
A mixture of diphenylmethyl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate (X-5', 641 mg, 0.58 mmole) and 2-aminothiazolo[4,5-c]pyridine (97 mg, 0.64 mmole) in dimethylsulfoxide (10 ml) was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate (150 ml), washed with water (2×150 ml), dried over sodium sulfate and concentrated under reduced pressure. The oily residue was triturated with diisopropyl ether and the resulting precipitate (558 mg) was treated with a mixture of 90% trifluoroacetic acid (10 ml) and anisole (2 ml) at room temperature for 1 hour. Concentration of the mixture followed by trituration of the residue with ether gave 313 mg of crude I-5C, which was purified by column chromatography [HP-20, eluted with 30% and 50% CH3OH: the packing in the PrepPAK-500/C18 (Waters), eluted with 10% CH3OH] to give 40 mg (11%) of I-5C. M.p. >150° C. (dec.).

reactant | diphenylmethyl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C1(CCC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=CCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C56H52IN5O7S2
reactant | 2-aminothiazolo[4,5-c]pyridine | 0.64 mmole, 97 mg | NC=1SC2=C(C=NC=C2)N1 | C6H5N3S
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(1-carboxycyclobut-1-oxyimino)acetamido]-3-[(E)-3-(2-amino-5-thiazolo[4,5-c]pyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\C[N+]2=CC3=C(C=C2)SC(=N3)N)C(=O)[O-])C1=O)=N/OC1(CCC1)C(=O)O | C26H24N8O7S3
